US05942516
j) 6-Benzyloxymethyl-4-hydroxy-5-iodo-pyrimidine
A solution of 6-benzyloxymethyl-4-hydroxy-pyrimidine (4.55 g, 20.87 mmol) and N-iodosuccinimide (5.165 g, 23 mmol) in chloroform (250 ml) was kept at reflux under argon for 2 h. The solution was washed with water, 0.5 N sodium thiosulfate, and brine. After drying (MgSO4), filtration and concentration gave a white solid (6.56 g, 91%).

reactant | 6-benzyloxymethyl-4-hydroxy-pyrimidine | 20.87 mmol, 4.55 g | C(C1=CC=CC=C1)OCC1=CC(=NC=N1)O | C12H12N2O2
reactant | N-iodosuccinimide | 23 mmol, 5.165 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-Benzyloxymethyl-4-hydroxy-5-iodo-pyrimidine | 6.56 g, 91% | C(C1=CC=CC=C1)OCC1=C(C(=NC=N1)O)I | C12H11IN2O2
